US03962236
1,10-Dimethyl-3,4-dihydro-1H-1,4-oxazino[4,3-a]indole-1-propanol (9.5 g.), described in Example 462, is dissolved in dry pyridine (20 ml.). p-Toluenesulfonyl chloride (7.4 g.) is added portionwise to the vigorously stirred and cooled solution. The mixture is stirred further at 0°C. for 1 hr., ice and water is then added and the aqueous mixture is extracted with ether. The combined ether extracts are washed with 10% ice-cold hydrochloric acid, water, 5% sodium bicarbonate water and dried (Na2SO4). Concentration of the extracts affords 1,10-dimethyl-3,4-dihydro-1H-1,4-oxazino[4,3-a]indole-1-propyl tosylate, δCHCl3max 1600, 1370, 1190 and 1170 cm-1.

reactant | 1,10-Dimethyl-3,4-dihydro-1H-1,4-oxazino[4,3-a]indole-1-propanol | 9.5 g | CC1(OCCN2C1=C(C=1C=CC=CC21)C)CCCO | C16H21NO2
reactant | p-Toluenesulfonyl chloride | 7.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1,10-dimethyl-3,4-dihydro-1H-1,4-oxazino[4,3-a]indole 1-propyl tosylate | CC1OCCN2C1=C(C=1C=CC=CC21)C.S(=O)(=O)(OCCC)C1=CC=C(C)C=C1 | InChI=1S/C13H15NO.C10H14O3S/c1-9-11-5-3-4-6-12(11)14-7-8-15-10(2)13(9)14;1-3-8-13-14(11,12)10-6-4-9(2)5-7-10/h3-6,10H,7-8H2,1-2H3;4-7H,3,8H2,1-2H3
